US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-cyanamide (1.8 g) is dissolved in N,N-dimethylformamide (10 ml), and thereto are added sodium azide (407 mg) and ammonium chloride (335 mg), and the mixture is heated to 100° C. and stirred for 6 hours. The reaction solution is allowed to cool to room temperature, and thereto is added a 10% aqueous citric acid solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=30:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(2H-tetrazol-5-yl)-amine (1.9 g). MS (m/z): 618 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-cyanamide | 1.8 g | FC(C=1C=C(CN(C#N)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C28H23F9N2O
reactant | sodium azide | 407 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 335 mg | [Cl-].[NH4+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(2H-tetrazol-5-yl)-amine | 1.9 g | FC(C=1C=C(CN(C=2N=NNN2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C28H24F9N5O
